US08835420B2
1-(5-(1-((2,6-Diamino-5-chloropyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol
To a 10 mL vial were added 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol (75 mg, 0.304 mmol), 5,6-dichloropyrimidine-2,4-diamine (65.4 mg, 0.365 mmol) and Et3N (0.085 mL, 0.61 mmol) in acetonitrile (2 mL) and water (0.5 mL). The resulting brown solution was heated to 90° C. and stirred overnight. The crude product was purified by preparative HPLC eluting with 20-40% ACN in water (with 0.05% ammonium bicarbonate). The fractions containing the desired product were combined and lyophilized to give the title compound as an off-white solid (10 mg, 8.5%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.03-1.14 (m, 3 H), 1.28-1.37 (m, 3 H), 3.48-3.56 (m, 1 H), 3.65-3.74 (m, 1 H), 3.74-3.83 (m, 3 H), 4.02-4.15 (m, 1 H), 4.23-4.33 (m, 1 H), 4.51-4.61 (m, 1 H), 5.33-5.48 (m, 1 H), 5.56-5.63 (m, 1 H), 5.64-5.73 (m, 2 H), 5.86-6.00 (m, 2H), 6.40-6.52 (m, 2 H), 7.07-7.16 (m, 1 H), 7.35-7.46 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C17H21ClN8O, 389; found 389.

reactant | 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol | 0.304 mmol, 75 mg | NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)O | C13H18N4O
reactant | 5,6-dichloropyrimidine-2,4-diamine | 0.365 mmol, 65.4 mg | ClC=1C(=NC(=NC1Cl)N)N | C4H4Cl2N4
reactant | Et3N | 0.61 mmol, 0.085 mL | CCN(CC)CC | C6H15N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 0.5 mL | O | H2O
product | 1-(5-(1-((2,6-Diamino-5-chloropyrimidin-4-yl)amino)ethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)azetidin-3-ol | 10 mg, 8.5% | NC1=NC(=C(C(=N1)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CC(C2)O)Cl)N | C17H21ClN8O
